US07399867B2
[2-(4-Methanesulfonyl-phenyl)-6-methoxy-naphthalen-1-yl]-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-methanone
Dissolve trifluoro-methanesulfonic acid 6-methoxy-1-[4-(2-piperidin-1-yl-ethoxy)-benzoyl]-naphthalen-2-yl ester (555 mg, 1.0 mmol), 4-methansulfonylphenylboronic acid (310 mg, 1.55 mmol), Pd(OAc)2 (23.9 mg, 0.11 mmol), Ph3P (54.2 mg, 0.21 mmol) and Na2CO3 (2.5 mL, 2M in water) in ethyleneglycol dimethyl ether (DME, 30 mL). Reflux the mixture for 2 hours and add additional Pd(OAc)2 (25.2 mg) and Ph3P (58.9 mg). Reflux for 2 hours then dilute the reaction mixture with water and extract with chloroform. Dry the organic phase over Na2SO4, filter and concentrate. Purify the crude material by loading on an SCX column and eluting with 2M NH3/MeOH to afford 569 mg of the title compound (101%). LCMS: m/z=544 (M+H)+

reactant | trifluoro-methanesulfonic acid 6-methoxy-1-[4-(2-piperidin-1-yl-ethoxy)-benzoyl]-naphthalen-2-yl ester | 1.0 mmol, 555 mg | COC=1C=C2C=CC(=C(C2=CC1)C(C1=CC=C(C=C1)OCCN1CCCCC1)=O)OS(=O)(=O)C(F)(F)F | C26H26F3NO6S
reactant | 4-methansulfonylphenylboronic acid | 1.55 mmol, 310 mg | CS(=O)(=O)C1=CC=C(C=C1)B(O)O | C7H9BO4S
reactant | Ph3P | 0.21 mmol, 54.2 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | Na2CO3 | 2M, 2.5 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | Ph3P | 58.9 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
solvent | ethyleneglycol dimethyl ether | 30 mL | COCCOC | C4H10O2
solvent | water | O | H2O
catalyst | Pd(OAc)2 | 0.11 mmol, 23.9 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
catalyst | Pd(OAc)2 | 25.2 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | [2-(4-Methanesulfonyl-phenyl)-6-methoxy-naphthalen-1-yl]-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-methanone | 569 mg, 101% | CS(=O)(=O)C1=CC=C(C=C1)C1=C(C2=CC=C(C=C2C=C1)OC)C(=O)C1=CC=C(C=C1)OCCN1CCCCC1 | C32H33NO5S
